US06329550B1
2-(t-Butoxycarbonylamino)malonic acid
Combine diethyl t-butoxycarbonylaminomalonate (4.55 g, 16.5 mmol), a 6 M aqueous sodium hydroxide solution (6.65 mL, 40 mmol), and ethanol (30 mL). After 18 hours, evaporate in vacuo to remove most of the ethanol, dilute with water (50 mL) and extract with diethyl ether. Acidify to a pH of about 3 with aqueous 12M hydrochloric acid and extract twice with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to give the title compound (61%).

reactant | diethyl t-butoxycarbonylaminomalonate | 16.5 mmol, 4.55 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)OCC | C12H21NO6
reactant | sodium hydroxide | 40 mmol, 6 M, 6.65 mL | [OH-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-(t-Butoxycarbonylamino)malonic acid | 61% | C(C)(C)(C)OC(=O)NC(C(=O)O)C(=O)O | C8H13NO6
